US03991194
2-Benzyl-5,5-dimethyl-10-[4-(2-methylpiperidino)butyryloxy]8-(1-pentyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride
2-Benzyl-5,5-dimethyl-10-hydroxy-8-(1-pentyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine, γ-(2-methylpiperidino)butyric acid hydrochloride and dicyclohexylcarbodiimide in equimolar amounts are reacted as in Example 1 to give the desired product.

reactant | 2-Benzyl-5,5-dimethyl-10-hydroxy-8-(1-pentyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine | C(C1=CC=CC=C1)N1CCC2=C(C1)C1=C(OC2(C)C)C=C(C=C1O)CCCCC | C26H33NO2
reactant | γ-(2-methylpiperidino)butyric acid hydrochloride | Cl.CC1N(CCCC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 2-Benzyl-5,5-dimethyl-10-[4-(2-methylpiperidino)butyryloxy]8-(1-pentyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride | Cl.C(C1=CC=CC=C1)N1CCC2=C(C1)C1=C(OC2(C)C)C=C(C=C1OC(CCCN1C(CCCC1)C)=O)CCCCC | InChI=1S/C36H50N2O3.ClH/c1-5-6-8-17-29-23-32(40-34(39)18-13-21-38-20-12-11-14-27(38)2)35-30-26-37(25-28-15-9-7-10-16-28)22-19-31(30)36(3,4)41-33(35)24-29;/h7,9-10,15-16,23-24,27H,5-6,8,11-14,17-22,25-26H2,1-4H3;1H
